US05185370
2-[(4-Methoxyphenyl)methylene]-1,3-dicyclopropyl-1,3-propanedione
The procedure described in Example 19 was repeated by using 0.68 g 4-methoxybenzaldehyde and 0.77 g 1,3-dicyclopropyl-1,3-propanedione. Yield 0.46 g, mp 60.5°-61.5° C.

reactant | 4-methoxybenzaldehyde | 0.68 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | 1,3-dicyclopropyl-1,3-propanedione | 0.77 g | C1(CC1)C(CC(=O)C1CC1)=O | C9H12O2
product | 2-[(4-Methoxyphenyl)methylene]-1,3-dicyclopropyl-1,3-propanedione | COC1=CC=C(C=C1)C=C(C(=O)C1CC1)C(=O)C1CC1 | C17H18O3
